US07199139B2
(S)-4-Benzyl-3-[(S)-3-(4-hydroxyphenyl)-2-(4-methylphenoxy)propionyl]oxazolidin-2-one
Triethylsilane (24.0 ml) was added at room temperature to a solution of (S)-4-benzyl-3-[(2S,3R)-3-hydroxy-3-(4-hydroxyphenyl)-2-(4-methylphenoxy)propionyl]oxazolidin-2-one (8.15 g) obtained from Reference example 20(c) in trifluoroacetic acid (90 ml), then the mixture was stirred for 18 hours and concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The ethyl acetate layer was washed successively with a saturated aqueous sodium hydrogencarbonate solution, a 1N aqueous solution of hydrochloric acid and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were filtered off and washed with a mixed solvent of isopropyl ether and hexane to give the target compound (6.70 g) as colorless crystals.

reactant | Triethylsilane | 24.0 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | (S)-4-benzyl-3-[(2S,3R)-3-hydroxy-3-(4-hydroxyphenyl)-2-(4-methylphenoxy)propionyl]oxazolidin-2-one | 8.15 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@@H](C1=CC=C(C=C1)O)O)OC1=CC=C(C=C1)C)=O | C26H25NO6
solvent | trifluoroacetic acid | 90 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-4-Benzyl-3-[(S)-3-(4-hydroxyphenyl)-2-(4-methylphenoxy)propionyl]oxazolidin-2-one | 6.70 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](CC1=CC=C(C=C1)O)OC1=CC=C(C=C1)C)=O | C26H25NO5
